US04851412
2-Methyl-1-(2-hydroxyethyl)-imidazo[4,5-c]pyridine (5 g, 28.5 mmole) was added to a suspension of sodium hydride (60% oil dispersion, 2.3 g, 57 mmole) in dry tetrahydrofuran (100 ml) and the mixture was sonicated for 2 hours at room temperature. A solution of isopropyl 4-chloroacetoacetate (5.1 g, 28.5 mmole) in tetrahydrofuran (100 ml) was added dropwise under nitrogen with sonication and the mixture was sonicated for 5 hours at room temperature. 2N Hydrochloric acid (100 ml) was added and the tetrahydrofuran removed under reduced pressure. The aqueous solution was washed with methylene chloride (2×50 ml), neutralised with potassium carbonate and extracted with ethyl acetate (3×25 ml). The combined extracts were washed with water, dried over magnesium sulphate and evaporated. The residue was chromatographed on silica, eluting with ethyl acetate containing 10% isopropyl alcohol to yield isopropyl 4-[2-(2-methyl-1-imidazo[4,5-c]pyridyl)ethoxy]-3-ketobutanoate (5.3 g, 58%). Rf (silica; methanol, ethyl acetate 1:4) 0.13; N.M.R. (CDCl3) δ=1.05 (d, J=6 Hz, 6H); 2.50 (s, 3H); 3.15 (s, 2H); 3.67 (t, J=5.5 Hz, 2H); 3.93 (s, 2H); 4.19 (t, J=5.5 Hz, 2H); 4.8 (m, 1H); 7.11-8.19 (m, 3H).

reactant | 2-Methyl-1-(2-hydroxyethyl)-imidazo[4,5-c]pyridine | 28.5 mmole, 5 g | CC=1N(C2=C(C=NC=C2)N1)CCO | C9H11N3O
reactant | sodium hydride | 57 mmole, 2.3 g | [H-].[Na+]
reactant | isopropyl 4-chloroacetoacetate | 28.5 mmole, 5.1 g | ClCC(CC(=O)OC(C)C)=O | C7H11ClO3
reactant | Hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | isopropyl 4-[2-(2-methyl-1-imidazo[4,5-c]pyridyl)ethoxy]-3-ketobutanoate | 5.3 g, 58% | CC=1N(C2=C(C=NC=C2)N1)CCOCC(CC(=O)OC(C)C)=O | C16H21N3O4
